US07176242B2
Step 3: 1-Butyl-4-cyano-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1H-indole-6-carboxamide
To a mixture of 1-butyl-4-cyano-1H-indole-6-carboxylic acid (0.29 g) in methylene chloride (10 mL) was added 1,1-carbonyldiimidazole (0.194 g) and triethylamine (0.267 g). The mixture was stirred at room temperature for 45 minutes at which time (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol (0.5 g) dissolved in methylene chloride (10 mL) was added. The mixture was stirred at room temperature for 18 h then poured into methylene chloride (50 mL), washed with water followed by brine, dried over anhydrous magnesium sulfate and concentrated under vacuum. Column chromatography on silica gel (100 mL) using 5% methanol in methylene chloride as eluent to give 0.47 g of the title compound: MS (ESI+) for C33H36F2N4O2 m/z 559.0 (M+H)+.

reactant | 1-butyl-4-cyano-1H-indole-6-carboxylic acid | 0.29 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)O)C#N | C14H14N2O2
reactant | triethylamine | 0.267 g | C(C)N(CC)CC | C6H15N
reactant | (2R,3S)-3-amino-4-(3,5-difluorophenyl)-1-[(3-ethylbenzyl)amino]butan-2-ol | 0.5 g | N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F | C19H24F2N2O
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1-Butyl-4-cyano-N-{(1S,2R)-1-(3,5-difluorobenzyl)-3-[(3-ethylbenzyl)amino]-2-hydroxypropyl}-1H-indole-6-carboxamide | 0.47 g | C(CCC)N1C=CC2=C(C=C(C=C12)C(=O)N[C@H]([C@@H](CNCC1=CC(=CC=C1)CC)O)CC1=CC(=CC(=C1)F)F)C#N | C33H36F2N4O2
